US08431603B2
(3-Chloro-4-iodo-5-methoxyphenyl)methanol
To a mixture of ethyl 3-chloro-4-iodo-5-methoxybenzoate (15.6 g, 45.8 mmol) and toluene (150 mL) was added diisobutylaluminum hydride (1.01 M solution in toluene: 95.2 mL, 96.2 mmol) while stirring at −78° C., and stirring was continued for 3 hours while raising the temperature to −30° C. After then adding a solution of Rochelle salt (sodium potassium (+)-tartrate tetrahydrate) (77.6 g, 275 mmol) in water (400 mL) to the mixture, stirring was continued for 5 hours at room temperature and ethyl acetate was added. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was then filtered, and the solvent in the filtrate was distilled off under reduced pressure to obtain the title compound (13.7 g, 45.8 mmol).

reactant | ethyl 3-chloro-4-iodo-5-methoxybenzoate | 45.8 mmol, 15.6 g | ClC=1C=C(C(=O)OCC)C=C(C1I)OC | C10H10ClIO3
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 96.2 mmol, 1.01 M, 95.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle salt | 275 mmol, 77.6 g | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | water | 400 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Chloro-4-iodo-5-methoxyphenyl)methanol | 45.8 mmol, 13.7 g | ClC=1C=C(C=C(C1I)OC)CO | C8H8ClIO2
